US07932282B2
A solution of 5-(1,1-dimethylethyl)1-(phenylmethyl)3-methyl-2-oxo-1,5-imidazolidinedicarboxylate (3.8 g, 11.36 mmol) (prepared as described in step (ii) of Example 13, starting from (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid) in methanol (50 ml) containing Pd/C (10% paste, 400 mg) was hydrogenated at room temperature and pressure for 18 hours. The mixture was filtered through a filter pad and the pad washed with methanol. The filtrates were combined, evaporated and dried to give 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate (1.001 g, 5 mmol) (2.17 g, 95%); LC/MS [M+H]+=201. (ii) A solution of 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate (1.001 g, 5 mmol) in TFA/DCM (1:2, 7.5 ml) was stirred at room temperature for 6 hours. The solution was evaporated and the residue was dried to give crude 1-methyl-2-oxo-4-imidazolidinecarboxylic acid (assume 5 mmol), which was used in the next step. LC/MS [M+H]+=145.

reactant | 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate | 5 mmol, 1.001 g | CN1C(NC(C1)C(=O)OC(C)(C)C)=O | C9H16N2O3
solvent | TFA DCM | 7.5 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 1-methyl-2-oxo-4-imidazolidinecarboxylic acid | 5 mmol | CN1C(NC(C1)C(=O)O)=O | C5H8N2O3
